US20010047031A1
(3RS, cis) and (3RS, trans)-4-[1-(3-Benzyl-cyclobutyl)-pyrrolidine-3-sulfonyl]-phenol
The title compound, MS: m/e=372.3 (M+H+) was prepared from (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt and 3-benzyl-cyclobutanone.

reactant | (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt | FC(C(=O)O)(F)F.N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O
reactant | 3-benzyl-cyclobutanone | C(C1=CC=CC=C1)C1CC(C1)=O | C11H12O
product | (3RS, trans)-4-[1-(3-Benzyl-cyclobutyl)-pyrrolidine-3-sulfonyl]-phenol | C(C1=CC=CC=C1)[C@@H]1C[C@H](C1)N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | C21H25NO3S
